US04699981
To a cooled (-10° C.) solution of 1.5 g (2 mM) of benzhydryl 7β-phenoxyacetamido-3-diphenylphosphoryloxy-3-cephem-4-carboxylate in 12 ml of N,N-dimethylformamide were added a solution of 177 mg (2.2 mM) of 70% sodium hydrosulfide in 8 ml of N,N-dimethylformamide and 310 mg (2.4 mM) of diisopropylethylamine, and the reaction mixture was stirred for 30 minutes. Subsequently, 330 mg (3 mM) of allyl propiolate was added at the same temperature, and the reaction mixture was stirred for 40 minutes. After the reaction, 50 ml of 0.5% hydrochloric acid was added, the mixture was extracted with 100 ml of ethyl acetate, and the extract was washed with a saturated aqueous sodium chloride solution (100 ml×2) and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate : n-hexane=2 : 3 to 1 : 1) to give 820 mg of benzhydryl 7β-phenoxyacetamido-3-[(Z)-2allyloxycarbonylvinylthio]-3-cephem-4-carboxylate.

reactant | benzhydryl 7β-phenoxyacetamido-3-diphenylphosphoryloxy-3-cephem-4-carboxylate | 2 mM, 1.5 g | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OP(=O)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C40H33N2O7PS
reactant | sodium hydrosulfide | 2.2 mM, 177 mg | [SH-].[Na+]
reactant | allyl propiolate | 3 mM, 330 mg | C(C#C)(=O)OCC=C | C6H6O2
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | diisopropylethylamine | 2.4 mM, 310 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7β-phenoxyacetamido-3-[(Z)-2allyloxycarbonylvinylthio]-3-cephem-4-carboxylate | 820 mg | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)S\C=C/C(=O)OCC=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C34H30N2O7S2
